.subckt FULL_ADDER A B C

.include TSMC_180nm.txt
.include NOT_SUB.sub
.include AND2.sub
.include AND3.sub
.include AND4.sub
.include AND5.sub
.include XOR.sub
.include OR.sub

.param LAMBDA = 0.18u
.param width_N = {10*LAMBDA}
.param width_P = {2.5*width_N}

vdd vdd gnd 2.0V

xG1 A B P XOR
xG2 A B G AND2

xG3 C P sum XOR
xG4 P C Cx AND2

xG5 Cx G Cplus OR

.ends