.subckt OR A B E

.include TSMC_180nm.txt
.include NOT_SUB.sub

.param LAMBDA = 0.18u
.param width_N = {10*LAMBDA}
.param width_P = {2.5*width_N}

vdd vdd gnd 2.0V

M1 D A vdd vdd CMOSP W={width_P} L={LAMBDA}
+ AS = {5*width_P*LAMBDA} PS = {10*LAMBDA + 2*width_P} AD = {5*width_P*LAMBDA} PD = {10*LAMBDA + 2*width_P}

M2 C B D D CMOSP W={width_P} L={LAMBDA}
+ AS = {5*width_P*LAMBDA} PS = {10*LAMBDA + 2*width_P} AD = {5*width_P*LAMBDA} PD = {10*LAMBDA + 2*width_P}

M3 C A gnd gnd CMOSN W={width_N} L={LAMBDA}
+ AS = {5*width_N*LAMBDA} PS = {10*LAMBDA + 2*width_N} AD = {5*width_N*LAMBDA} PD = {10*LAMBDA + 2*width_N}

M4 C B gnd gnd CMOSN W={width_N} L={LAMBDA}
+ AS = {5*width_N*LAMBDA} PS = {10*LAMBDA + 2*width_N} AD = {5*width_N*LAMBDA} PD = {10*LAMBDA + 2*width_N}

xG1 C E NOTNOT

.ends