.subckt SUMMER P0 P1 P2 P3 C0 C1 C2 C3 S0 S1 S2 S3

.include TSMC_180nm.txt
.include NOT_SUB.sub
.include AND2.sub
.include AND3.sub
.include AND4.sub
.include AND5.sub
.include XOR.sub
.include OR.sub

.param LAMBDA = 0.18u
.param width_N = {10*LAMBDA}
.param width_P = {2.5*width_N}

* Defining the inputs
vdd vdd gnd 2.0V

* Making the logic part

* S0
xG1 C0 P0 S0 XOR

* S1
xG2 C1 P1 S1 XOR

* S2
xG3 C2 P2 S2 XOR

* S3
xG4 C3 P3 S3 XOR

.ends